US06710052B2
4-[3-(Isobutylamino)-2-hydroxypropoxy]aniline
Isobutylamine (5.1 ml, 51.2 mmol) was added to a solution of 4-(2,3-epoxypropoxy) nitrobenzene (obtained as described in Synthetic Communications, 1994, 24, 833; 1.0 g, 5.12 mmol) in THF (1 ml). The solution was heated under reflux for 3 hours and then volatile material was removed by evaporation. The residue was dissolved in methanol (5 ml) and 10% palladium on carbon (0.50 g) and ammonium formate (3.23 g, 51.2 mmol) were added. The mixture was heated under reflux for 3 hours and then filtered through diatomaceous earth. The filtrate was concentrated under reduced pressure to give the product as dark brown oil (1.22 g, 100%), which was used without further purification. MS (MH+): 238.9.

reactant | Isobutylamine | 51.2 mmol, 5.1 ml | C(C(C)C)N | C4H11N
reactant | 4-(2,3-epoxypropoxy) nitrobenzene | 5.12 mmol, 1.0 g | O1C(COC2=CC=C(C=C2)[N+](=O)[O-])C1 | C9H9NO4
reactant | ammonium formate | 51.2 mmol, 3.23 g | C(=O)[O-].[NH4+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
product | 4-[3-(Isobutylamino)-2-hydroxypropoxy]aniline | 1.22 g, 100% | C(C(C)C)NCC(COC1=CC=C(N)C=C1)O | C13H22N2O2
